US07432258B2
e) (1R)-N-methyl-1-[3 ′-(methyloxy)-4-biphenylyl]-2-(4-morpholinyl)ethanamine
[(1R)-1-(4-Bromophenyl)-2-(4-morpholinyl)ethyl]methylamine (3.5 g, 11.7 mmol) was dissolved in a dioxane/H2O solution (140 mL, 5:2 volume ratio) at room temperature with magnetic stirring. The resulting solution was treated with 3-methoxylbenzene boronic acid (1.76 g, 12.9 mmol) followed by K2CO3 (4.85 g, 3.51 mmol) and PdCl2(dppf)2.CH2Cl2 (0.48 g, 0.59 mmol). The reaction was maintained at 100° C. for 5 h. The reaction mixture was cooled to room temperature and then filtered through celite. The filtrate was concentrated and then partitioned between EtOAc and brine. The organic layer was dried over MgSO4, and filtered. The filtrate was concentrated, and the residue was purified by silica gel chromatography (120 g Redisep column, silica, 40 um, 60 Å, 80 mL/min, A: MeOH (with 10% NEt3), B: CH2Cl2, A: 2% for 20 min, 5% for 20 min, 10% for 10 min; detection at 254 nm) to give the title compound as a yellow oil (3.3 g, 85%). MS (ES) m/e 327 [M+H]1 .

reactant | [(1R)-1-(4-Bromophenyl)-2-(4-morpholinyl)ethyl]methylamine | 11.7 mmol, 3.5 g | BrC1=CC=C(C=C1)[C@H](CN1CCOCC1)NC | C13H19BrN2O
reactant | 3-methoxylbenzene boronic acid | 12.9 mmol, 1.76 g | O(C)C=1C=C(C=CC1)B(O)O | C7H9BO3
reactant | K2CO3 | 3.51 mmol, 4.85 g | C(=O)([O-])[O-].[K+].[K+]
reactant | CH2Cl2 | 0.59 mmol, 0.48 g | C(Cl)Cl | CH2Cl2
solvent | dioxane H2O | 140 mL | O1CCOCC1.O
catalyst | PdCl2(dppf)2 | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | (1R)-N-methyl-1-[3 ′-(methyloxy)-4-biphenylyl]-2-(4-morpholinyl)ethanamine | 3.3 g, 85% | CN[C@@H](CN1CCOCC1)C1=CC=C(C=C1)C1=CC(=CC=C1)OC | C20H26N2O2
